US07799805B2
N-{2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-acetamide
AcCl (0.063 mL, 0.88 mmol) was added to a sol. of 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethylamine (252 mg, 0.840 mmol) and DIPEA (0.575 mL, 3.36 mmol) in CH2Cl2 (8.4 mL). The mixture was stirred at rt for 30 min, and aq. sat. NH4Cl was added. The layers were separated, and the org. layer was washed with aq. 1M NaOH, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (CH2Cl2/MeOH 19:1) yielded the title compound (190 mg, 66%). LC-MS: tR=1.09 min; ES+: 342.19.

reactant | AcCl | 0.88 mmol, 0.063 mL | C(=O)(C)Cl | C2H3ClO
reactant | 2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethylamine | 0.840 mmol, 252 mg | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCN)(C)C | C15H26ClNOSi
reactant | DIPEA | 3.36 mmol, 0.575 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 8.4 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-acetamide | 190 mg, 66% | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCNC(C)=O)(C)C | C17H28ClNO2Si
